2183-07-01 06:49:00 Physician Resident Progress Note
Chief Complaint: dyspnea, hypoxia
   [**Age over 90 **] y/o F MMP including CAD, DM, h/o lung adenocarcinoma s/p lobectomy
   p/w dyspnea and ARF
   24 Hour Events:
   having dyspnea on FM 50% and 6 L NC.  She desaturated to 75% on that
   regimen.  She was placed on a non-rebreather and her Sats increased to
   100%.    Her EKG strip at that time had frequent PVCs.
   She was placed back on FM but O2 sats dropped to 90-91% and she was put
   back on FT
   Also patient appears to be very anxious and states that she feels like
   she is dying, and then when you ask her what
s wrong she asks for
   blanket.
   Patient states takes vicodin for vertebral compression fxs.  Gave her 1
   IV morphine with good response.
   Subjective:
   breathing improved on non-rebreather.  Complaining of pain.
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-7-1**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 92 (84 - 92) bpm
   BP: 152/39(68) {103/39(65) - 152/73(80)} mmHg
   RR: 25 (24 - 36) insp/min
   SpO2: 97%
             Total In:
             2,115 mL
   PO:
             TF:
   IVF:
   365 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,795 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow nasal cannula 6L & 50%
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Anxious, HOH better without
   assistive device.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), decreased breath sounds at
   right base.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, cool, no edema.
   Skin:  sacral decubitus ulcer not examined
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   Am labs pending
        [image002.jpg]
                                     149
                               [image004.gif]
                                     114
                               [image004.gif]
                                     40
   [image006.gif]
   255
                                                                   AGap=20
   [image007.gif]
   4.6
                               [image004.gif]
                                     20
                               [image004.gif]
                                     1.4
   [image009.gif]
   estGFR: [1]35/42 (click for details)
   ALT: 13
   AP: 105
   Tbili: 0.3
   Alb:
   AST: 19
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 429**]:
   Lip: 88
   88
                                                                    10.9 D
                                                            [image009.gif]
                                    15.0
   [image006.gif]
   355 D
                                                    [image010.gif]
   [image006.gif]
                                   45.3 D
   [image009.gif]
   N:63 Band:11 L:14 M:8 E:0 Bas:0 Atyps: 3 Metas: 1
   Anisocy: OCCASIONAL Microcy: OCCASIONAL
   Plt-Est: Normal
   PT: 13.9
   PTT: 21.7
   INR: 1.2
   CXR [**2183-7-1**]
 persistant RLL effusion with LLL fluffy opacities noted.
   Sputum:  (culture pending)
GRAM STAIN (Final [**2183-7-1**]):
      [**10-4**] PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                       OROPHARYNGEAL FLORA.
   Blood cx -- pending
   Assessment and Plan
   A/P: [**Age over 90 **] y/o F MMP including CAD, DM, h/o lung adenocarcinoma s/p
   lobectomy p/w dyspnea and ARF
   # Dyspnea
   Given leukocytosis and CXR concern is for aspiration PNA versus
   improperly treated HAP. Patient also failed S&S evaluation but has not
   been compliant with pureed diet. Patient also likely has component of
   mucus plugging and atelectasis. Given recent unremarkable adenosine
   MIBI at NWH will defer further cardiac workup.
   - f/u blood, sputum cx, urine cx
   - continue Vanco/Zosyn
 need abx approval; await [**Last Name (un) **] for possible
   double abx for pseudomonas.
   - will d/c flagyl
   - pulmonary toilet
   - nebulizers and mucolytics
   - wean oxygen as tolerated, on FT currently
 may need to go back to
   NRB
   - repeat CXR in AM, consider CT chest if concern for effusion which may
   be amenable to TC
   - consider thoracentesis if resp status not improving.
   # ARF on CKD
   - Patient appears volume depleted on exam, will give IVF overnight
   - check urine cr, sodium, and osm
   # Hypernatremia
  follow up on am labs.
   - given 1/2 NS overnight and recheck in AM
   # HTN
   -          slowly add back anti-HTN
   -          She takes Propranolol 20 mg PO QID, Valsartan 80 mg PO daily
   and Verapamil 180 mg SR daily as outpatient
   -          Consider adding back propranolol today.  Hold [**Last Name (un) 239**] for renal
   fn.
   # DM
   - sliding scale insulin and readdress insulin needs
   # Pain/ anxiety -  back pain from compression fx was very responsive to
   1 mg IV morphine.  Now that patient can take pills try Tylenol first.
   - if patient having anxiety consider low dose ativan
   # Skin
 sacral decubitus
 routine wound care.  continue to monitor.
   # Code- confirmed DNR/DNI with her son [**Name (NI) 297**] [**Name (NI) 3743**], cell [**Telephone/Fax (1) 3744**]
   # PPX- sq heparin, pneumoboots
   # FEN- bedside s/s study done.  Patient okay to have thickened diet and
   crushed pills.
   - speech recommends video eval once pt is more stable.
   # Contact: son [**Name (NI) 297**] [**Name (NI) 3743**] as above
   # Dispo- ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
References
   1. [**Doctor Last Name 3748**]/

2183-07-01 09:55:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Metronidazole - [**2183-7-1**] 07:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-7-1**] 08:58 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2183-7-1**] 07:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Dysphagia
   Flowsheet Data as of  [**2183-7-1**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (84 - 114) bpm
   BP: 123/61(71) {89/39(60) - 152/73(80)} mmHg
   RR: 32 (24 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,610 mL
   PO:
             TF:
   IVF:
   860 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    470 mL
   Urine:
   290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,140 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), Pacer
   in place
   1/6 SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: Bases bilaterally (R worse than L)),
   Tachypnea
Striking increase in breath sound volume in LLL distribution
   consistent with areas of consolidation and clear dullness at right
   base.
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person/place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   1.4
   149
   45
   10.9
        [image002.jpg]
   Other labs: Band:11%
   Imaging: CXR--Right sided effusion--moderate size and left lower lobe
   patchy opacities
   Assessment and Plan
   [**Age over 90 **] yo female with history of lung CA and s/p resection now s/p ABX
   coure of treatment at NWH and in that setting right sided effusion was
   not tapped based on patient request and of concern is significant
   aspiration risk documented. In that setting she went to rehab placement
   and at intake patient with saturations of 70% noted on room air and
   patient returned to acute care facility at [**Hospital1 54**] for management of
   hypoxemia and hypotension.  Of note in the ED saturations had improved
   without intervention in ED and hypotension did show good response to
   initial IVF bolus.  This would argue for a situation of hypovolemia as
   evidenced by any number of measures (increased HCT, increase Na+) and
   persistent pulmonary infection as well.
   Hypoxemia-Likely a combination of pleural effusions and persistent
   pneumonia given findings of bandemia and persistent infiltate
   -Pneumonia-
   -ABX to cover hosptial acquired organisms is
   essential--vanco/Flagyl/Zosyn
   -Will need pulmonary "toilet" with cough, chest PT and OOB as possible.
   -OOB to chair as possible
   Pleural Effusion-
   -Is longstanding although there is some concern for infection in the
   setting of persistent bandemia
   -Would favor tap for both symptoms management and diagnostic yield if
   patient is in agreement and able to comply with procedure.  There are
   mulitple areas of collapse suggested on the left which may be a primary
   contributor as well.
   Pulmonary Infiltrate-
   -Patient with consolidation on left side as well based on exam.
   Certainly antibiotics and OOB
Chair
deep cough and chest PT will be
   essential to establish stable oxygenation.
   -Vanco/Zosyn and will modify based on culture results
   Sepsis
   There is a concern for sepsis and she certainly meets critera for
   Sepsis with SIRS and suspected source of infection in her lungs or
   pleural space.  Initial treatment with volume had reasonable response
   initially but with persistent hypoxemia there is a concern for
   evolution of pulmonary edema as well.
   -Volume bolus as needed based on BP which has responded.
   -Abx as above
   -Follow up culture results
   gg
   ICU Care
   Nutrition: Consult placed and po eval to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35

2183-07-02 06:47:00 Physician Resident Progress Note
Chief Complaint:
   [**Age over 90 **] y/o F MMP including CAD, DM, h/o lung adenocarcinoma s/p lobectomy
   p/w dyspnea and ARF
   24 Hour Events:
   received 2 500mL boluses for SBPs in the 90s and MAPs in high 50s with
   good response.  She became tachycardic this morning which was new for
   her.  Her tachycardia was not responsive to fluids.
   Subjective: Patient feels her SOB is worse.  Reports constant coughing
   but not being able to bring up phlem.  Did not get any sleep last night
   due to difficulty breathing and agitation.  Was given trazadone for
   sleep but did not help and dropped her BP.
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Metronidazole - [**2183-7-1**] 07:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-7-2**] 02:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2183-7-1**] 07:12 AM
   Heparin Sodium (Prophylaxis) - [**2183-7-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-7-2**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 106 (92 - 106) bpm
   BP: 115/56(70) {86/41(52) - 146/67(84)} mmHg
   RR: 30 (21 - 36) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
             Total In:
                                                                  5,780 mL
                                                                    551 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,970 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    290 mL
   Urine:
                                                                    795 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,805 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: High flow neb 35% FiO2
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   Gen: HOH, NAD
   lungs: decreased breath sounds in right base
   CV: rapid rate, regular rhythm, s1 & s2 nl, systolic murmur
   Abd: +bs, nt, non-distendend, no masses
   Ext:  warm, no edema.
   Labs / Radiology
   232 K/uL
   12.6 g/dL
   208 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   23 mg/dL
   114 mEq/L
   144 mEq/L
   36.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2183-7-1**]  10:44 AM
                             [**2183-7-2**]  03:59 AM
   WBC
   8.5
   7.9
   Hct
   38.7
   36.9
   Plt
   257
   232
   Cr
   1.1
   1.0
   Glucose
   113
   208
   Other labs: PT / PTT / INR:15.2/23.8/1.3,
   Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:3.0
   %,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR [**7-2**] - no significant change from previous.  LLL opacities
   look slightly denser and R lung effusion may be slightly worse.
   CXR [**7-1**] -
    Stable moderate-sized right and small left pleural effusions.
   Persistent hazy opacification at the left base, likely atelectasis but
   cannot rule out pneumonia. Slightly increased prominence of the
   pulmonary vessels, suggesting early
   overhydration.
   Microbiology: SPUTUM:
   GRAM STAIN (Final [**2183-7-1**]):
         [**10-4**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                     OROPHARYNGEAL FLORA.
   blood cx pending x2
   urine cx pending
   Assessment and Plan
   [**Age over 90 **] y/o F MMP including CAD, DM, h/o lung adenocarcinoma s/p lobectomy
   p/w dyspnea and ARF
   # Dyspnea
   Given leukocytosis and CXR concern is for aspiration PNA versus
   improperly treated HAP.  Patient also likely has component of mucus
   plugging and atelectasis. Given recent unremarkable adenosine MIBI at
   NWH will defer further cardiac workup.  Resp status slightly worse this
   morning after fluid boluses overnight
   - will give lasix 10 IV now and reassess.
   - f/u blood, sputum cx, urine cx
 will obtain 2^nd sputum cx.
   - continue Vanco/Zosyn
 need abx approval; await [**Last Name (un) **] for possible
   double abx for pseudomonas.
   - pulmonary toilet
   - nebulizers and mucolytics
   - wean oxygen as tolerated, on FT currently
 may need to go back to
   NRB
   - repeat CXR in AM, consider CT chest if concern for effusion which may
   be amenable to TC
   - consider thoracentesis if resp status not improving.
   # ARF on CKD
 creatinine down to 1 this am
   # Hypernatremia
  resolving, may improve further with lasix
   # HTN --
   -          She takes Propranolol 20 mg PO QID, Valsartan 80 mg PO daily
   and Verapamil 180 mg SR daily as outpatient
   -          Consider adding back propranolol today.
   # tachycardia
 not responsive to IVF.  Most likely secondary to resp
   distress this morning
   -          will give lasix to improve resp status
   -          may add propranolol today for better rate control.
   # DM
   - sliding scale insulin and readdress insulin needs
   # Pain/ anxiety -  Now that patient can take pills try Tylenol first.
   - patient on low dose vicodin as outpatient for compression fxs.
   # Skin
 sacral decubitus
 routine wound care.  continue to monitor.
   # Code- confirmed DNR/DNI with her son [**Name (NI) 297**] [**Name (NI) 3743**], cell [**Telephone/Fax (1) 3744**]
   # PPX- sq heparin, pneumoboots
   # FEN- bedside s/s study done.  Patient okay to have thickened diet and
   crushed pills.
   - speech recommends video eval once pt is more stable.
   # Contact: son [**Name (NI) 297**] [**Name (NI) 3743**] as above
   # Dispo- ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2183-07-02 10:21:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F
   24 Hour Events:
   ovenight worsening tachycardia and mild hypotension.
   several NS boluses without change in hemodynamics.
   no sob.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Metronidazole - [**2183-7-1**] 07:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-7-2**] 08:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-7-2**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2183-7-2**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 118 (93 - 118) bpm
   BP: 120/72(96) {83/41(52) - 146/76(96)} mmHg
   RR: 33 (20 - 37) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,780 mL
                                                                  1,272 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,970 mL
                                                                  1,272 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    426 mL
   Urine:
                                                                    795 mL
                                                                    426 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,805 mL
                                                                    846 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: Right Base)
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+, Warm
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   232 K/uL
   208 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   23 mg/dL
   114 mEq/L
   144 mEq/L
   36.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2183-7-1**]  10:44 AM
                             [**2183-7-2**]  03:59 AM
   WBC
   8.5
   7.9
   Hct
   38.7
   36.9
   Plt
   257
   232
   Cr
   1.1
   1.0
   Glucose
   113
   208
   Other labs: PT / PTT / INR:15.2/23.8/1.3, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:3.0 %, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with history of LLL resection for lung CA who now has
   evolved some significant tachycardia and respiratory distress this
   morning with evolution of significant respiratory distress which at
   this point may well represent some significant evolution of pulmonary
   edema in the setting of baseline pulmonary compromise.
   Respiratory Distress-
   Pneumonia--Vanco/Zosyn to continue
                    --Continue with chest PT and mobilization of
   secretions
   Pulmonary Edema--That may be playing a role in the current respiratory
   distress and will have to move to diuresis this morning to look for
   response
                   --Lasix IV this morning
                   --Will have to consider CPAP if response limited.
   Acute Renal Failure-
                  --Likely pre-renal and has improved significantly with
   hydration which may be mildly exessive at this time.
   Hypertension-
                 --Return B-Blocker today for BP and HR control
   Back Pain-
               --Vicodin for pain control
              --Wound Care for decubitus ulcer
   gg
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: PO diet with supervised feed pending video swallow
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient note was entered in the setting of patient file opened under
   Dr. [**Last Name (STitle) 3545**]
s sign in in error.  I have entered the note in its
   entirety and have signed it under my name and am fully responsible for
   the content maintained within which I entered.
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2183-7-2**] 10:48 ------

2183-07-03 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-7-2**] 04:13 PM
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Metronidazole - [**2183-7-1**] 07:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-7-2**] 08:00 PM
   Vancomycin - [**2183-7-2**] 08:51 PM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-7-2**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2183-7-2**] 04:39 PM
   Lorazepam (Ativan) - [**2183-7-2**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-7-3**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 106 (102 - 124) bpm
   BP: 86/41(53) {67/36(33) - 150/105(113)} mmHg
   RR: 13 (13 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,824 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    778 mL
                                                                     60 mL
   Urine:
                                                                    778 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   12.6 g/dL
   208 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   23 mg/dL
   114 mEq/L
   144 mEq/L
   36.9 %
   7.9 K/uL
         [image002.jpg]
                             [**2183-7-1**]  10:44 AM
                             [**2183-7-2**]  03:59 AM
   WBC
   8.5
   7.9
   Hct
   38.7
   36.9
   Plt
   257
   232
   Cr
   1.1
   1.0
   Glucose
   113
   208
   Other labs: PT / PTT / INR:15.2/23.8/1.3, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:3.0 %, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F MMP including CAD, DM, h/o lung adenocarcinoma s/p lobectomy
   p/w aspiration PNA - CMO
   .
   # Dyspnea
   Given leukocytosis and CXR concern is for aspiration PNA versus
   improperly treated HAP.  Patient also likely has component of mucus
   plugging and atelectasis. Given recent unremarkable adenosine MIBI at
   NWH will defer further cardiac workup.  Resp status slightly worse this
   morning after fluid boluses overnight
   - will give lasix 10 IV now and reassess.
   - f/u blood, sputum cx, urine cx
 will obtain 2nd sputum cx.
   - continue Vanco/Zosyn
 need abx approval; await [**Last Name (un) **] for possible
   double abx for pseudomonas.
   - pulmonary toilet
   - nebulizers and mucolytics
   - wean oxygen as tolerated, on FT currently
 may need to go back to
   NRB
   - repeat CXR in AM, consider CT chest if concern for effusion which may
   be amenable to TC
   - consider thoracentesis if resp status not improving.
   .
   # ARF on CKD
 creatinine down to 1 this am
   .
   # Hypernatremia
  resolving, may improve further with lasix
   # HTN --
   -          She takes Propranolol 20 mg PO QID, Valsartan 80 mg PO daily
   and Verapamil 180 mg SR daily as outpatient
   -          Consider adding back propranolol today.
   # tachycardia
 not responsive to IVF.  Most likely secondary to resp
   distress this morning
   -          will give lasix to improve resp status
   -          may add propranolol today for better rate control.
   # DM
   - sliding scale insulin and readdress insulin needs
   # Pain/ anxiety -  Now that patient can take pills try Tylenol first.
   - patient on low dose vicodin as outpatient for compression fxs.
   # Skin
 sacral decubitus
 routine wound care.  continue to monitor.
   # Code- confirmed DNR/DNI with her son [**Name (NI) 297**] [**Name (NI) 3743**], cell [**Telephone/Fax (1) 3744**]
   # PPX- sq heparin, pneumoboots
   # FEN- bedside s/s study done.  Patient okay to have thickened diet and
   crushed pills.
   - speech recommends video eval once pt is more stable.
   # Contact: son [**Name (NI) 297**] [**Name (NI) 3743**] as above
   .
   # Dispo- ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   18 Gauge - [**2183-7-2**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: CMO
   Disposition: ICU

2183-07-03 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2183-7-2**] 04:13 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Codeine Phos/Apap/Caff/Butalb (Oral)
   insomnia;
   Last dose of Antibiotics:
   Metronidazole - [**2183-7-1**] 07:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-7-2**] 08:00 PM
   Vancomycin - [**2183-7-2**] 08:51 PM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-7-2**] 04:39 PM
   Lorazepam (Ativan) - [**2183-7-2**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-7-3**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 115 (101 - 124) bpm
   BP: 78/38(48) {67/36(33) - 150/105(113)} mmHg
   RR: 9 (8 - 37) insp/min
   SpO2: 67%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,824 mL
                                                                    167 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    778 mL
                                                                    120 mL
   Urine:
                                                                    778 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 67%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   232 K/uL
   208 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   23 mg/dL
   114 mEq/L
   144 mEq/L
   36.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2183-7-1**]  10:44 AM
                             [**2183-7-2**]  03:59 AM
   WBC
   8.5
   7.9
   Hct
   38.7
   36.9
   Plt
   257
   232
   Cr
   1.1
   1.0
   Glucose
   113
   208
   Other labs: PT / PTT / INR:15.2/23.8/1.3, Differential-Neuts:86.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:3.0 %, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with move to CMO status after extensive discussions with
   family.  Will continue with current support level at CMO in concert
   with the patients wishes as expressed through his family.
   GG
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-7-1**] 01:58 AM
   18 Gauge - [**2183-7-2**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: